US03954754
EXAMPLE 77: 3-Cyclohexylidenehydrazino-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine
A solution of 10.0 g of 3-hydrazino-5,6,7,8,9,10-hexahydrocyclooct[c]pyridazine in 100 cc of cyclohexanone is boiled at reflux at a bath temperature of 180° for 1 hour and 45 minutes. The mixture is concentrated in a vacuum, whereby the crystalline title compound is obtained and is recrystallized from isopropanol. M.P. 160°-162° (decomp.).

reactant | 3-hydrazino-5,6,7,8,9,10-hexahydrocyclooct[c]pyridazine | 10.0 g | N(N)C1=CC2=C(N=N1)CCCCCC2 | C10H16N4
reactant | cyclohexanone | 100 cc | C1(CCCCC1)=O | C6H10O
product | 3-Cyclohexylidenehydrazino-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine | C1(CCCCC1)=NNC1=CC2=C(N=N1)CCCCCC2 | C16H24N4
